US04436726
Starting from 3-(9-octadecenoyloxy)-11-eicosenoic acid (2.6 g) prepared by the method described in Preparation 8 and glycine (1.2 g), N-[3-(9-octadecenoyloxy)-11-eicosenoyl]glycine (2 g) was obtained as powders in a similar manner to that of Example 6.

reactant | 3-(9-octadecenoyloxy)-11-eicosenoic acid | 2.6 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCC=CCCCCCCCC | C38H70O4
reactant | glycine | 1.2 g | NCC(=O)O | C2H5NO2
product | N-[3-(9-octadecenoyloxy)-11-eicosenoyl]glycine | 2 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)NCC(=O)O)CCCCCCCC=CCCCCCCCC | C40H73NO5
